US04264595
Production of 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid (syn-isomer)
To a mixture of 0.309 g of 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn-isomer) and 1 ml of acetic acid there was added a sufficient amount of 1N-hydrochloric acid to completely dissolve the former. This solution was subjected to column chromatography on polystyrene resin (Amberlite XAD-2, Rohm & Haas Co.), development being carried out with water and 20% ethanol in the order mentioned. The fractions containing the desired product were pooled, concentrated and lyophilized. By the above procedure the captioned compound was obtained.

reactant | 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid hydrochloride | 0.309 g | Cl.N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=NO
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=NO | C15H15N5O7S2
